US07420001B2
To a solution of 0.40 g (1.74 mmol) of 3-methyl-4-vinylbenzofuran-2-carboxylic acid ethyl ester in 25 mL of ethyl acetate under nitrogen was added 0.050 g of 10% palladium on carbon. The reaction was shaken on a Parr hydrogenator under 40 psi of hydrogen for 4 h. The reaction was then filtered through a pad of celite. The celite was washed with an additional 150 mL of ethyl acetate and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:30) to provide 0.395 of 3-methyl-4-ethylbenzofuran-2-carboxylic acid ethyl ester.

reactant | 3-methyl-4-vinylbenzofuran-2-carboxylic acid ethyl ester | 1.74 mmol, 0.40 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C=C | C14H14O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.050 g | [Pd] | Pd
product | 3-methyl-4-ethylbenzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CC | C14H16O3
